US09126998B2
Ethyl 2,6-dimethyl-8-(3-methylbutoxy)imidazo[1,2-a]pyridine-3-carboxylate
1.23 ml (9.4 mmol) of 1-iodo-3-methylbutane and 6.12 g (18.8 mmol) of caesium carbonate were added to 2.0 g (8.5 mmol) of ethyl 8-hydroxy-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxylate Example 239A in 122.3 ml of DMF, and the mixture was stirred at 60° C. for 40 min. 900 ml of water were added to the reaction mixture, which had cooled to RT, and the mixture was stirred at RT for 1 h, and the precipitated solid was filtered off, washed with water and dried under high vacuum. This gave 2.25 g (84% of theory; purity 97%) of the title compound.

reactant | 1-iodo-3-methylbutane | 9.4 mmol, 1.23 ml | ICCC(C)C | C5H11I
reactant | caesium carbonate | 18.8 mmol, 6.12 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl 8-hydroxy-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxylate | 8.5 mmol, 2.0 g | OC=1C=2N(C=C(C1)C)C(=C(N2)C)C(=O)OCC | C12H14N2O3
reactant | water | 900 ml | O | H2O
solvent | DMF | 122.3 ml | CN(C)C=O | C3H7NO
product | Ethyl 2,6-dimethyl-8-(3-methylbutoxy)imidazo[1,2-a]pyridine-3-carboxylate | CC=1N=C2N(C=C(C=C2OCCC(C)C)C)C1C(=O)OCC | C17H24N2O3
